US08703805B2
To a solution of 3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenol (155 mg, 0.5 mmol) and triphenylphosphine (170 mg, 0.65 mmol) in THF (2 mL) was added 2-morpholinoethanol (72 μL, 0.59 mmol). The solution was cooled in an ice bath and treated with diisopropylazodicarboxylate (125 μL, 0.64 mmol). After a few minutes the ice bath was removed and the reaction was allowed to stir while warming to ambient temperature. After stirring for 16 hours LC/MS analysis showed desired product and triphenylphosphine oxide as the major peaks. The reaction solution was concentrated under reduced pressure and the resulting yellow oil was purified by flash column chromatography eluting with 30% followed by 40% EtOAc/hexane, and then a gradient of CH2Cl2 to 4% MeOH/CH2Cl2. The white solid that was obtained was found to be contaminated with triphenylphosphine oxide. This crude product was further purified by normal phase preparative HPLC eluting with a gradient from CH2Cl2 to 10% isopropanol/CH2Cl2 to afford 4-(2-(3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenoxy)ethyl)morpholine (139 mg, 67% yield) as a thick syrup. MS(ES): 452 [M+H]+.

reactant | 3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenol | 0.5 mmol, 155 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=C(C=CC1)O)C(F)(F)F | C16H10ClF3N2O
reactant | triphenylphosphine | 0.65 mmol, 170 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-morpholinoethanol | 0.59 mmol, 72 μL | O1CCN(CC1)CCO | C6H13NO2
reactant | diisopropylazodicarboxylate | 0.64 mmol, 125 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(2-(3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenoxy)ethyl)morpholine | 139 mg, 67% yield | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=C(OCCN2CCOCC2)C=CC1)C(F)(F)F | C22H21ClF3N3O2
